US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-((R)-pyrrolidin-3-yloxy)-phenyl]-methanone
HCl (1.3 mL) was added to a solution of (R)-3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-pyrrolidine-1-carboxylic acid tert-butyl ester (700 mg; 1.32 mmol; 1 eq.) in 1,4-dioxane (10 mL) was stirred at room temperature for 16 hours then concentrated in vacuo. The reaction mixture was diluted with DCM, washed with 0.1M NaOH, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (550 mg, 97%) as yellow foam. 1H NMR (DMSO-d6) δ 7.40-7.31 (m, 1H), 7.09-7.01 (m, 1H), 6.93-6.83 (m, 1H), 5.03-4.93 (m, 1H), 4.86-4.76 (m, 2H), 4.62-4.43 (m, 2H), 3.13-3.02 (m, 1H), 2.84 (s, 1.5H), 2.81 (s, 1.5H), 2.78-2.69 (m, 2H), 2.62 (s, 1.5H), 2.57 (s, 1.5H), 2.07-1.89 (m, 1H), 1.79-1.61 (m, 2H). HPLC (max plot) 97.2%, Rt 2.74 min. UPLC/MS: (MS+) 430.4 ([M+H]+).

reactant | HCl | 1.3 mL | Cl | ClH
reactant | (R)-3-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-5-fluoro-phenoxy]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.32 mmol, 700 mg, 1 eq. | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC1=C(C=CC(=C1)F)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1 | C26H29ClFN5O4
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[4-fluoro-2-((R)-pyrrolidin-3-yloxy)-phenyl]-methanone | 550 mg, 97% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=C(C=C3)F)O[C@H]3CNCC3)C | C21H21ClFN5O2
